US06593362B2
Synthesis of 1-nitro-3-(2-phenylethoxy)benzene.
A stirred solution of 3-nitrophenol (1.39 g, 10 mmol), 1-naphthaleneethanol (1.89 g, 11 mmol), and triphenylphosphine (2.9 g, 11 mmol) in 100 ml of tetrahydrofuran was treated with a solution of 2.22 g (11 mmol) of diisopropylazodicarboxylate added dropwise. The resulting mixture was stirred overnight, and then concentrated and redissolved in a minimum amount of ethyl acetate. Purification on a silica gel column, eluting with 10% ethyl acetate in hexane, delivered 2.0 g of the ether.

reactant | 3-nitrophenol | 10 mmol, 1.39 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | 1-naphthaleneethanol | 11 mmol, 1.89 g | C1(=CC=CC2=CC=CC=C12)CCO | C12H12O
reactant | triphenylphosphine | 11 mmol, 2.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 11 mmol, 2.22 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-nitro-3-(2-phenylethoxy)benzene | [N+](=O)([O-])C1=CC(=CC=C1)OCCC1=CC=CC=C1 | C14H13NO3
